US05498795
6-Iodonicotinic acid (Compound B)
To 27.97 g (186.6 mmol) of sodium iodide cooled to -78° C. was added 121.77 g (71.6 ml, 952.0 mmol) of hydriodic acid (in 57 wt % aqueous solution). The reaction mixture was allowed to warm slightly with stirring for 5 minutes, and then 30.00 g (190.4 mmol) of 6-chloronicotinic acid was added. The resulting mixture was allowed to warm to room temperature with stirring and then heated at 120°-125° C. in an oil bath for 42 hours. A dark brown layer formed above the yellow solid material. The reaction mixture was allowed to cool to room temperature and then poured into acetone (chilled to 0° C.). The resultant yellow solid was collected by filtration, washed with 200 ml of 1N aqueous NaHSO3 solution, and dried in vacuum (3 mm Hg) to give the title compound as a pale yellow solid. PMR (DMSO-d6): d 7.90 (1H, dd, J=8.1, 2 Hz), 7.99 (1H, d, J=8.1 Hz), 8.80 (1H, d, J=2 Hz).

reactant | sodium iodide | 186.6 mmol, 27.97 g | [I-].[Na+]
reactant | hydriodic acid | 952.0 mmol, 71.6 ml, 121.77 g | I | HI
reactant | 6-chloronicotinic acid | 190.4 mmol, 30.00 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
solvent | acetone | CC(=O)C | C3H6O
product | 6-Iodonicotinic acid | IC1=NC=C(C(=O)O)C=C1 | C6H4INO2
